US07423035B2
8-[2-(1-benzyl-cyclopropylamino)-1-hydroxy-ethyl]-5-hydroxy-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 3 from 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 147 mg (1 mmol) 1-benzyl-cyclopropylamine. Yield: 56 mg (12%, trifluoroacetate); mass spectroscopy: [M+H]+=355.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | 1-benzyl-cyclopropylamine | 1 mmol, 147 mg | C(C1=CC=CC=C1)C1(CC1)N | C10H13N
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 8-[2-(1-benzyl-cyclopropylamino)-1-hydroxy-ethyl]-5-hydroxy-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)C1(CC1)NCC(O)C1=CC=C(C=2NC(COC21)=O)O | C20H22N2O4
